US04542132
Trans-1-benzyl-3-t-butyldimethylsilyloxy-4-(1-triphenylmethoxyprop-2-yl)piperidine (4.5 g; diastereomer A) was hydrogenated in ethanol (60 cm3) at 60° and 60 p.s.i. pressure over 10% palladium on carbon (0.9 g) for 5 hours. The solution was cooled, filtered through "Avicel" to remove the catalyst and evaporated in vacuo to afford trans-3-t-butyldimethylsilyloxy-4-(1-hydroxyprop-2-yl)piperidine as a crude oil (diastereomer A).

reactant | Trans-1-benzyl-3-t-butyldimethylsilyloxy-4-(1-triphenylmethoxyprop-2-yl)piperidine | C(C1=CC=CC=C1)N1C[C@H]([C@@H](CC1)C(COC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C)O[Si](C)(C)C(C)(C)C | C40H51NO2Si
solvent | ethanol | 60 cm3 | C(C)O | C2H6O
catalyst | palladium on carbon | 0.9 g | [Pd] | Pd
product | trans-3-t-butyldimethylsilyloxy-4-(1-hydroxyprop-2-yl)piperidine | [Si](C)(C)(C(C)(C)C)O[C@@H]1CNCC[C@H]1C(CO)C | C14H31NO2Si
